US04598156
In a manner analogous to that of Example 1, 3.1 g of N-hydroxy-N-formylaniline, 200 mg of Li2PdCl4 and 60 ml of vinyl acetate are reacted at 55° C. for 6 hours, and, after further processing, N-formylindole is obtained; IR spectrum (CHCl3): 1660 (CO): NMR spectrum (100 MHz, CDCl3): 6.54 (broad d, J=5 Hz, CH); 7.0-7.3 (m, 4H); 8.02 (broad d, J=6 Hz, CH); 8.68 (s, H--CO) ppm.

reactant | N-hydroxy-N-formylaniline | 3.1 g | ON(C1=CC=CC=C1)C=O | C7H7NO2
reactant | vinyl acetate | 60 ml | C(C)(=O)OC=C | C4H6O2
product | N-formylindole | C(=O)N1C=CC2=CC=CC=C12 | C9H7NO
